US08981111B2
Preparation of N-{6-[({[(4-methyl-1,3-oxazol-5-yl)(phenyl)methylene]amino}oxy)methyl]pyridin-2-yl}hexanamide (Compound 320) according to process P2
To a stirred solution of 6-[({[(4-methyl-1,3-oxazol-5-yl)(phenyl)methylene]amino}oxy)methyl]pyridin-2-amine (90 mg, 0.29 mmol) in dichloromethane (2 mL) were added pyridine (35 mg, 0.44 mmol) and after 15 min stirring n-hexanoyl chloride (43 mg, 0.32 mmol). After stirring at room temperature for 4 h the mixture was passed through a cartridge filled with basic alumina and 1 g silica. After rinsing with dichloromethane the final compound was eluted with heptane/ethylacetate (1/1) to afford after evaporation N-{6-[({[(4-methyl-1,3-oxazol-5-yl)(phenyl)methylene]amino}oxy)methyl]pyridin-2-yl}hexanamide (95 mg, 72%).

reactant | 6-[({[(4-methyl-1,3-oxazol-5-yl)(phenyl)methylene]amino}oxy)methyl]pyridin-2-amine | 0.29 mmol, 90 mg | CC=1N=COC1C(C1=CC=CC=C1)=NOCC1=CC=CC(=N1)N | C17H16N4O2
reactant | pyridine | 0.44 mmol, 35 mg | N1=CC=CC=C1 | C5H5N
reactant | n-hexanoyl chloride | 0.32 mmol, 43 mg | C(CCCCC)(=O)Cl | C6H11ClO
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | N-{6-[({[(4-methyl-1,3-oxazol-5-yl)(phenyl)methylene]amino}oxy)methyl]pyridin-2-yl}hexanamide | CC=1N=COC1C(C1=CC=CC=C1)=NOCC1=CC=CC(=N1)NC(CCCCC)=O | C23H26N4O3
